US04406907
1. 2-Chloro-5-(2-cyclopropylmethoxy-ethoxy)pyridine
A solution of 12.9 g (0.1 mol) of 2-chloro-5-hydroxypyridine in 50 cc of dry dimethylformamide is added to a suspension of 4.8 g (0.1 mol) of sodium hydride (a 50% dispersion in mineral oil) in 200 cc of dimethylformamide. When the evolution of hydrogen has ceased, a solution of 27 g (0.1 mol) of 2-cyclopropylmethoxy-ethanol tosylate in 50 cc of dimethylformamide is added and the mixture is heated at 50°-60° C. for 5 hours. It is then cooled and poured into water; extraction is carried out with diethyl ether and the organic phase is washed with water. After drying, filtration and evaporation of the ether phase, an oil is obtained, which is distilled. Its boiling point (0.1 mm Hg) is 136° C.

reactant | 2-chloro-5-hydroxypyridine | 0.1 mol, 12.9 g | ClC1=NC=C(C=C1)O | C5H4ClNO
reactant | sodium hydride | 0.1 mol, 4.8 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-cyclopropylmethoxy-ethanol tosylate | 0.1 mol, 27 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCOCC1CC1 | C13H18O4S
solvent | dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Chloro-5-(2-cyclopropylmethoxy-ethoxy)pyridine | ClC1=NC=C(C=C1)OCCOCC1CC1 | C11H14ClNO2
